US06919331B2
3-[5-Cyano-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid ethyl ester was prepared by the same procedure as 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carbonitrile, except using 2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid ethyl ester (N. Meanwell et al, J. Org. Chem, 1995, 60(6), 1565-82) and was used without purification in the next reaction.

reactant | 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carbonitrile | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)C#N)=O | C24H27N5O
reactant | 2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C(NC2=C1C=CC=C2)=O | C10H10N2O3
product | 3-[5-Cyano-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)C#N)=O | C24H25N5O3
